US07339061B2
Step A: 1-(4-Fluorobenzyl)piperidin-4-one:
To 10 mmol of piperidin-4-one hydrochloride monohydrate and 20 mmol of triethylamine, dissolved in dichloromethane, there are slowly added 10 mmol of 4-fluorobenzyl chloride; the reaction mixture is then heated at reflux of the solvent for 48 hours, with vigorous stirring. After returning to ambient temperature, water is added and then, after separation of the phases, the organic phase is dried, filtered and concentrated in vacuo to yield the expected product in the form of an orange oil.

reactant | piperidin-4-one hydrochloride monohydrate | 10 mmol | O.Cl.N1CCC(CC1)=O
reactant | triethylamine | 20 mmol | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzyl chloride | 10 mmol | FC1=CC=C(CCl)C=C1 | C7H6ClF
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(4-Fluorobenzyl)piperidin-4-one | FC1=CC=C(CN2CCC(CC2)=O)C=C1 | C12H14FNO
